* 2nd-Order Passive RLC Lowpass Filter
* Fc = 1/(2*pi*sqrt(L*C)) = approx 15.9 kHz
* Q = (1/Rs)*sqrt(L/C) = approx 1.0 (near critically damped with Rs=50)
* Demonstrates .AC simulation and complex CSV export
Vin in 0 AC 1
Rs in n1 50
L1 n1 out 10m
C1 out 0 10n
RL out 0 1k
.AC dec 101 100 10Meg
.backanno
.end
