* Two-Stage BJT Common-Emitter Bias Circuit
* Stage 1 Q1: voltage-divider bias, Vcc=12V
* Stage 2 Q2: collector of Q1 drives base of Q2 (direct coupling)
* Demonstrates .OP simulation; inspect Ic(Q1) and Ic(Q2)
VCC vcc 0 12
R1 vcc b1 100k
R2 b1 0 33k
RC1 vcc c1 4.7k
RE1 e1 0 1k
Q1 c1 b1 e1 2N3904
RC2 vcc c2 2.2k
RE2 e2 0 470
Q2 c2 c1 e2 2N3904
.model 2N3904 NPN(Bf=200 Vaf=74 Is=6.73f Xtb=1.5 Br=3.906 Cjc=3.638p Cje=4.493p Rb=10)
.op
.backanno
.end
