* RC Low-Pass Filter - .STEP resistance sweep
V1 vin 0 PULSE(0 1 0 1n 1n 0.5m 1m)
R1 vin vout {R}
C1 vout 0 1n
.STEP param R 1k 3k 1k
.TRAN 3m
.backanno
.end
